US08981113B2
To a solution of N-(3,4-dihydro-5-oxa-1,2a-diaza-acenaphthylen-2-yl)-benzenesulfonamide (125 mg, 0.40 mmol) in DMF (2.5 mL) was added 1-bromomethyl-4-trifluoromethyl-benzene (190 mg, 0.80 mmol) and potassium carbonate (55 mg). The resulting mixture was heated to 120° C. in a microwave reactor for 1 h and then diluted with EtOAc, washed with H2O and the organic layer was dried over Na2SO4, filtered, and concentrated in vacuo. The resultant residue was purified by flash column chromatography (SiO2), eluting with a hexanes-EtOAc gradient to yield N-[1-(4-trifluoromethyl-benzyl)-3,4-dihydro-1H-5-oxa-1,2a-diaza-acenaphthylen-2-ylidene]-benzenesulfonamide (2nd compound to elute off the column); which was further purified by HPLC (reverse phase C-18 column, 45-100% acetonitrile/water containing 0.05% trifluoroacetic acid) to yield N-[1-(4-trifluoromethyl-benzyl)-3,4-dihydro-1H-5-oxa-1,2a-diaza-acenaphthylen-2-ylidene]-benzenesulfonamide trifluoroacetic acid salt. MS 474 (M+1)+.

reactant | N-(3,4-dihydro-5-oxa-1,2a-diaza-acenaphthylen-2-yl)-benzenesulfonamide | 0.40 mmol, 125 mg | N1=C(N2CCOC3=CC=CC1=C23)NS(=O)(=O)C2=CC=CC=C2 | C15H13N3O3S
reactant | 1-bromomethyl-4-trifluoromethyl-benzene | 0.80 mmol, 190 mg | BrCC1=CC=C(C=C1)C(F)(F)F | C8H6BrF3
reactant | potassium carbonate | 55 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 2.5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N-[1-(4-trifluoromethyl-benzyl)-3,4-dihydro-1H-5-oxa-1,2a-diaza-acenaphthylen-2-ylidene]-benzenesulfonamide | FC(C1=CC=C(CN2C(N3CCOC4=CC=CC2=C34)=NS(=O)(=O)C3=CC=CC=C3)C=C1)(F)F | C23H18F3N3O3S
